Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Cephalosporins / betalactams / Carbapenems / 
penicillin G
 
Attending: ___
 
Chief Complaint:
Right-sided weakness
 
Major Surgical or Invasive Procedure:
Extraventricular drain placed ___
Extraventricular drain pulled ___
PEG tube ___

 
History of Present Illness:
Mr. ___ ___ AKA Eu Critical ___ ___ is a ___
year old man with HTN, HLD, CAD and previous right thalamic
hemorrhage in ___ who presents with left thalamic hemorrhage
today.

Wife reports he was in his usual state of health last night and
this morning. She last saw him well at 7:00 am; he was watching
television. He then went to the bathroom and had a bowel 
movement
(looked well formed and without blood to his wife). He called 
out
to his wife, "Get in here!" and she ran to the bathroom to find
him on the floor with his eyes open and the right side of his
face drooping. He did not complain of any specific pain,
including headache, only said, "I'm dying." She relays that he
was conversational during the ambulance ride and in the ED, but
got progressively more confused, saying that he was ___ years 
old.
CTH revealed left thalamic hemorrhage with intraventricular
extension. His wife states that at no point was he sleepy or
unresponsive, nor did he have respiratory distress. She
understands that he was intubated at ___ in preparation
for a possible surgery here. 

Regarding his prior hemorrhage, he presented in ___ with left
leg tingling and numbness then was found to have the bleed. He
was left with very mild weakness on the left side, so mild that
he was able to return to work full time as an ___ 
___.
His wife recalls that he was hospitalized for about 1 week and
there was a lot of difficulty controlling his blood pressure. 
Mr.
___ monitored his own pressure at home for about a year but
it was well-controlled so he stopped. Wife is unsure of the last
time his BP was checked, but he has been very compliant with his
antihypertensive medication regimen. He has a longstanding
history of bradycardia which she was told he would someday need 
a
pacemaker for. 

ROS: On neurologic review of systems, the patient denies
headache, lightheadedness, or confusion. Denies difficulty with
producing or comprehending speech. Denies loss of vision, 
blurred
vision, diplopia, vertigo, tinnitus, hearing difficulty,
dysarthria, or dysphagia. Denies focal muscle weakness, 
numbness,
parasthesia. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash

 
Past Medical History:
HTN
HLD
DM
CAD s/p stent x2
carpal tunnel surgery R hand last year
rotator cuff surgery within last ___ years

 
Social History:
___
Family History:
two sisters with history of stents. No family history of ICH or
seizures. 
 
Physical Exam:
EXAM ON ADMISSION:
==================
99.5 
58 
193/93 
24 
100% Intubation 
---------------
General:  intubated, sedate
HEENT: NCAT, intubated
___: bradycardic to ___ but well perfused
Pulmonary: ETT
Abdomen: Soft, obese
Extremities: Warm, no edema

Neurologic Examination:

- Mental status: intubated and sedated. Opens eyes spontaneously
and appears to visually fixate. Does not track objects. Does not
follow commands.

- Cranial Nerves: PERRL small 2 ->1.5 mm. Face symmetric around
tube. Eye movements are conjugate and there is no nystagmus. 

- Motor:  Decreased tone on the right side. He has spontaneous
movements of the right arm and leg, some occasional hip internal
rotation on the right, but right-sided movements are much more
rare. He withdraws to pain in all extremities, but the briskness
and amplitude of his movements are greater on the left and
diminished on the right. 

- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  1+    1+     1+      1+       1
 R  1+    1+     1+      1+       1 

Plantar response flexor on left, extensor on right
- Sensory: withdraws and responds to pain in all 4 extremities
- Coordination and gait: N/A

EXAM ON DISCHARGE:
==================
 Vitals: T: 98.2  HR: 56 [40-75]  BP: 153/63 [117-154/56-82] 
RR: 21  SpO2: 95% RA
 General: awake, cooperative, NAD
 HEENT: EVD incision site C/D/I, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Awake, cooperative, oriented to hospital and 
___ but not ___ or year. Speech severely dysarthric. Able to 
follow midline and
appendicular commands. 

-Cranial Nerves: PERRL. Left gaze preference but able to 
overcome midline. R facial weakness. Hearing intact to 
conversation. Palatal elevation symmetric. Tongue protrudes in 
midline.

-Sensorimotor: Full power in LUE and LLE, no spontaneous 
movement of RUE and RLE; TF in RLE to noxious stimuli, no 
movement in RUE (though responds to noxious stimulus).

-DTRs: ___.

-Coordination: Deferred.
 
Pertinent Results:
___ 06:10AM BLOOD WBC-10.3* RBC-4.52* Hgb-14.1 Hct-41.9 
MCV-93 MCH-31.2 MCHC-33.7 RDW-12.2 RDWSD-41.7 Plt ___
___ 06:10AM BLOOD Glucose-191* UreaN-31* Creat-0.8 Na-137 
K-4.5 Cl-96 HCO3-27 AnGap-14
___ 06:10AM BLOOD Calcium-9.6 Phos-3.9 Mg-2.2
___ 03:28PM BLOOD ALT-17 AST-18 LD(LDH)-196 CK(CPK)-83 
AlkPhos-75 TotBili-0.9
___ 03:28PM BLOOD %HbA1c-6.9* eAG-151*
___ 03:28PM BLOOD Triglyc-157* HDL-62 CHOL/HD-2.7 
LDLcalc-72
___ 03:28PM BLOOD TSH-0.73
___ 10:10 

ALDOSTERONE 
Test                          Result              Reference 
Range/Units
ALDOSTERONE, LC/MS/MS         2                   see note ng/dL
 
*** Unable to flag abnormal result(s), please refer
    to reference range(s) below:

Adult Reference Ranges for Aldosterone, LC/MS/MS:
    Upright  8:00 - 10:00 am    < or = 28 ng/dL
    Upright  4:00 -  6:00 pm    < or = 21 ng/dL
    Supine   8:00 - 10:00 am       3 - 16 ng/dL
 
RENIN - FROZEN 
Test                          Result              Reference 
Range/Units
PLASMA RENIN ACTIVITY,        0.48                0.25-5.82 
ng/mL/h
LC/MS/MS                                          

___ 11:50 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
========
___ NCHCT:
1. Interval placement of a left frontal approach ventriculostomy 
catheter, 
with expected postprocedure changes and minimal interval 
decrease in size of the left lateral ventricle. 
2. No significant interval change in large left thalamic 
intraparenchymal 
hemorrhage measuring 4.2 x 3.5 cm.  Extensive intraventricular 
hemorrhage is also unchanged.  No new hemorrhage. 

___ CTA:  
1. Large parenchymal hemorrhage centered in the left thalamus, 
with 
involvement of the lateral white matter and extension into the 
left midbrain, and with large volume intraventricular extension. 

2. The third ventricle is severely compressed in shifted to the 
right.  
Posterior body and atrium of the left lateral ventricle 
partially compressed.  Temporal horn of the right lateral 
ventricle is dilated, suggesting entrapment. 
3. Punctate enhancing focus within the posterior aspect of the 
left 
ventricular hemorrhage most likely represents a blood vessel 
rather than 
active bleeding, as there is no enlargement of the hematoma and 
subsequent 
noncontrast head CTs.  Otherwise, no evidence for a vascular 
malformation or aneurysm. 
4. Focal narrowing of the distal left anterior cerebral artery 
is presumably atherosclerotic. 
5. Mild atherosclerosis of bilateral proximal internal carotid 
arteries 
without stenosis by NASCET criteria.  Mild atherosclerosis of 
the V1 and V4 segments of the left vertebral artery, without 
flow-limiting stenosis. 
6. Small amount of air in the right facial veins is likely 
secondary to 
intravenous catheter placement and contrast injection. 
7. Incompletely visualized dependent pulmonary opacities in the 
included upper lungs are not fully assessed but may represent 
atelectasis. 

___ Portable head CT (s/p completion of intrathecal tPA):
IMPRESSION:   
1. Stable interval appearance of a left thalamic 
intraparenchymal hematoma 
with surrounding edema, mild local mass effect, and minimal 
rightward midline shift. 
2. No additional sites for acute intracranial hemorrhage.  No 
vascular 
territorial infarction. 
3. Stable appearance of the ventricles and stable location of a 
left frontal approach EVD. 

___ 8:13 AM PORTABLE HEAD CT W/O CONTRAST 
1. Stable interval appearance of a left thalamic 
intraparenchymal hematoma 
with surrounding edema, mild local mass effect, and minimal 
rightward midline shift. 
2. No additional sites for acute intracranial hemorrhage.  No 
vascular 
territorial infarction. 
3. Stable appearance of the ventricles and stable location of a 
left frontal approach EVD. 

___ 9:23 AM CT HEAD W/O CONTRAST 
1. No significant change in size or appearance of a left 
thalamic 
intraparenchymal hematoma with intraventricular extension and 
surrounding 
edema.  No significant midline shift. 
2. Interval increase in size of the bilateral lateral ventricles 
suggesting developing obstruction/hydrocephalus.  Stable 
positioning of the left frontal approach EVD. 

___ 6:25 AM CT HEAD W/O CONTRAST 
Stable acute left intraparenchymal hematoma centered in the left 
thalamus with intraventricular extension, as above.  Stable 
positioning of the left frontal approach ventriculostomy 
catheter.  Stable mild prominence of the temporal horn of the 
left lateral ventricle.  No herniation.  No new hemorrhage. 

___ 2:12 ___ US RENAL ARTERY DOPPLER 
Normal renal ultrasound.  No evidence of renal artery stenosis.

___ 6:33 AM CT HEAD W/O CONTRAST 
1. No appreciable interval change in the left thalamic 
intraparenchymal 
hematoma with surrounding vasogenic edema.  No worsening mass 
effect. 
2. Interval redistribution of acute blood products from 
intraventricular 
extension of hemorrhage, now layering dependently in the 
occipital horn of the left lateral ventricle. 
3. No new superimposed acute intracranial process elsewhere 
identified. 
4. Interval resolution of prominence of the temporal horn of the 
left lateral ventricle.  No ventriculomegaly. 
5. Status post removal of left frontal approach ventriculostomy 
catheter.  
Hypodensity in the left frontal lobe along the catheter tract is 
unchanged. 
6. Stable chronic findings including global involutional 
changes, moderate 
changes of chronic white matter microangiopathy, and vascular 
calcifications. 
7. Additional findings described above. 

 
Brief Hospital Course:
___ man with history notable for HTN, HLD, DMII, CAD s/p 
PCI x2, and prior R thalamic hemorrhage in ___ p/w R sided 
weakness found to have L thalamic hemorrhage (20.5cc) with 
intraventricular extension complicated by hydrocephalus. 
Neurologic exam at the time of discharge significant for 
disorientation to date (but oriented to hospital and month) and 
reason for admission, severely dysarthric speech, PERRL, EOMI, 
right lower facial droop, no movement in the right arm, right 
leg with weak triple flexion to noxious (no spontaneous 
movement), left arm full strength, and left leg full strength, 
decreased sensation on the right side of his body, no dysmetria 
on FNF on the left. 

# Left thalamic hemorrhage with intraventricular extension 
complicated by hydrocephalus. Etiology thought to be secondary 
to hypertension. He developed hydrocephalus with a worsening 
mental status exam requiring EVD placement on ___ with 
intrathecal TPA (5 doses total). He was also transfused with 1U 
platelets. He had resultant improvement in his mental status. 
EVD was pulled ___ without complication. His aspirin was held 
during the admission and may be resumed on discharge. Throughout 
his admission, his mental status was waxing and waning - some 
days he was more oriented with more intelligible speech. Other 
days, he was disoriented with mumbling but always able to follow 
simple commands. Head CTs were repeated in the setting of these 
fluctuations and were confirmed no change in his bleed with no 
development of hydrocephalus. 

# Hypertension
Very difficult to control, requiring treatment with HCTZ, 
captopril, amlodipine, hydralazine, isosorbide dinitrate. Workup 
for secondary hypertension: Renal artery ultrasound 
unremarkable; plasma aldosterone and renin activity also WNL. 
Further outpatient evaluation may be considered with further 
adjustment of antihypertensives. 

# Dysphagia 
Initially required NG tube and repeatedly failed swallow 
evaluations. PEG tube was placed ___ without complication. 

# Bradycardia
Telemetry notable for intermittent asymptomatic bradycardia as 
well as significant first-degree heart block, with occasional 
runs of Mobitz I second-degree block. Note was also made of 
occasional blocked PACs from an ectopic focus. As a result, beta 
blockers should be avoided for hypertension, and consideration 
may be given to further cardiology evaluation as an outpatient.

TRANSITIONAL ISSUES
- Ongoing monitoring and adjustment of antihypertensives
- PCP, ___ follow up
- Remove staples at EVD removal site by ___
- Outpatient Cardiology follow up for bradycardia, hypertension
- Consider polysomnolgraphy to assess for OSA

 
Medications on Admission:
1. Aspirin 81 mg PO DAILY 
2. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO QPM 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Lisinopril 40 mg PO DAILY 
7. MetFORMIN (Glucophage) 500 mg PO BID 
8. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Captopril 150 mg PO Q8H  
3.  HydrALAZINE 20 mg PO Q6H  
4.  Isosorbide Dinitrate 40 mg PO Q8H  
5.  Multivitamins W/minerals Chewable 1 TAB PO DAILY  
6.  Hydrochlorothiazide 50 mg PO DAILY  
7.  Lisinopril 40 mg PO DAILY  
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Left thalamic intraparenchymal hemorrhage with 
intraventricular extension
2. Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr ___, 

You were admitted due to intracranial bleeding likely secondary 
to high blood pressure. As a result of your bleed, you have some 
confusion, slurred speech, difficulty swallowing, weakness and 
sensory loss in your right arm and leg. You required an 
extraventricular drain for some time because the bleeding was 
causing some increased pressure in your head. This was 
eventually taken out because you no longer needed it. You had 
trouble swallowing due the bleed and required placement of a PEG 
tube so that you could keep up with your nutrition. You can 
continue trials taking food by mouth at your rehab center. 

You had difficult to control high blood pressure while admitted. 
We started several new medications to control this.

MEDICATION CHANGES
- Increased HCTZ to 50mg daily
- Started amlodipine 10mg daily
- Started captopril 150mg three times/day
- Started hydralazine 20mg every 6 hours
- Stopped aspirin
- Stopped Isosorbide mononitrate
- Started Isosorbid Dinitrate 40mg three times/day
- Stopped lisinopril

We hope that as you are more mobile with physical therapy at 
rehab, you will need less blood pressure medication. You 
underwent some testing for secondary causes of hypertension 
which were unrevealing, so you will likely need additional 
testing at your follow-up visits with your cardiologist. 

You will need to follow up with your primary care provider to 
help manage your blood pressure. Please schedule this after 
discharge from the rehab. You should follow up with neurology as 
below. 

It was a pleasure taking care of you at ___.

___ Neurology Team 
 
Followup Instructions:
___